US06251926B1
Sodium hydride (60%, in oil, 122 mg) was added under a nitrogen atmosphere to a solution of methyl E-2-hydroxyimino-2-phenylacetate (548 mg) and 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (960 mg) in N,N-dimethylformamide (10 ml) at room temperature and the mixture was stirred for 1 hour. After adding 1N HCl (5 ml), aqueous sodium bicarbonate was added, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel to obtain a colorless oil from a fraction eluted with ethyl acetate-hexane (1:2, v/v). This oil was dissolved in methanol (5 ml)-1N aqueous solution of sodium hydroxide (5 ml) and the mixture was heated under reflux for 3 hours. 1N HCl (5.5 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystal was recrystallized from ethyl acetate-isopropyl ether to obtain E-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-phenylacetic acid (948 mg, yield 70%) as colorless crystals. m.p. 142-143° C. (decomposition)

reactant | Sodium hydride | 122 mg | [H-].[Na+]
reactant | methyl E-2-hydroxyimino-2-phenylacetate | 548 mg | O\N=C(\C(=O)OC)/C1=CC=CC=C1 | C9H9NO3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 960 mg | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | HCl | 1N, 5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | E-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-phenylacetic acid | 948 mg, yield 70% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(\C(=O)O)/C2=CC=CC=C2)C=C1 | C26H22N2O5
